US07432256B2
a) 2-Chloro-6-(4-methyl-imidazol-1-yl)-benzonitrile
In analogy to example 5a, 2-chloro-6-fluoro-benzonitrile was reacted with 4-methylimidazole and potassium carbonate for 16 h at 90° C. After aqueous workup and crystallization from Ethyl acetate/diisopropylether the title compound was obtained as an off-white solid (yield: 73%). MS: m/e=218.2 [M+H]+.

reactant | 2-chloro-6-fluoro-benzonitrile | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-Chloro-6-(4-methyl-imidazol-1-yl)-benzonitrile | yield: 73% | ClC1=C(C#N)C(=CC=C1)N1C=NC(=C1)C | C11H8ClN3
